US07557114B2
(c) 2-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
A solution of 7 mmol (3-hydroxymethyl-6-trifluoromethyl-pyridin-2-yl)-methanol in 20 ml dichloromethane was cooled to 0° C. 0.15 mmol 4-(N,N-dimethylamino)-pyridine and 15 mmol of mesyl chloride was added, followed by careful addition of 28 mmol triethyl amine. After stirring for 1 hour at 0° C., the reaction mixture was extracted with dichloromethane, dried and concentrated. The crude mesylate was dissolved in 10 ml N,N-dimethyl formamide, treated with 21 mmol DIPEA and 9 mmol triphenyl methylamine and hold overnight at 60° C. The resulting mixture was concentrated, diluted with water and extracted 3 times with ethyl acetate. The crude compound was purified by chromatography (SiO2; ethyl acetate/n-heptane 1:4) to give the title compound as a viscous yellow oil. Yield: 37%.

reactant | (3-hydroxymethyl-6-trifluoromethyl-pyridin-2-yl)-methanol | 7 mmol | OCC=1C(=NC(=CC1)C(F)(F)F)CO | C8H8F3NO2
reactant | mesyl chloride | 15 mmol | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethyl amine | 28 mmol | C(C)N(CC)CC | C6H15N
reactant | DIPEA | 21 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | triphenyl methylamine | 9 mmol | C1(=CC=CC=C1)C(N)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)-pyridine | 0.15 mmol | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | Yield: 37% | FC(C1=CC=C2C(=N1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(F)F | C27H21F3N2
